US07550459B2
4-[3-(4-Cyclopropylmethoxypiperidin-1-yl)propyl]-5,6-difluoro-4H-benzo[1,4]oxazin-3-one (AC00262696)
4-Cyclopropylmethoxypiperidine (0.037 g, 0.24 mmol), 4-(3-chloropropyl)-5,6-difluoro-4H-benzo[1,4]oxazin-3-one (0.065 g, 0.25 mmol), K2CO3 (0.06 g, 0.48 mmol), and KI (0.072 g, 0.48 mmol) were mixed according to GP3. Purified by prep TLC (SiO2; heptanes/EtOAc 1:1) to give the title compound (0.049 g, 54%). Rf=0.21 (heptanes/EtOAc 1:1); 1H NMR (CDCl3) d 6.84-6.70 (m, 2H), 4.48 (s, 2H), 4.48 (s, 2H), 4.08-4.02 (m, 2H), 3.34-3.26 (m, 1H), 3.24 (d, J=6.8 Hz, 2H), 2.75-2.68 (m 2H), 2.38 (t, J=7.2 Hz, 2H), 2.18-2.06 (m, 2H), 1.92-1.81 (m, 4H), 1.63-1.52 (m, 2H), 1.06-0.96 (m, 2H), 0.52-0.47 (m, 2H), 0.18-0.14 (m, 2H); 13C NMR (CDCl3) d 165.0, 147.5 (dd, J=242.3 Hz, J=13.2 Hz), 143.9, 140.7 (dd, J=250.2 Hz, J=17.3 Hz), 119.9, 111.7 (dd, J=7.3 Hz, J=3.5 Hz), 110.9 (d, J=18.9 Hz), 74.5, 72.7, 68.5, 55.5, 51.2, 42.7 (d, J=10.4 Hz), 31.1, 25.5, (d, J=2.6 Hz), 11.1, 3.2.

reactant | 4-Cyclopropylmethoxypiperidine | 0.24 mmol, 0.037 g | C1(CC1)COC1CCNCC1 | C9H17NO
reactant | 4-(3-chloropropyl)-5,6-difluoro-4H-benzo[1,4]oxazin-3-one | 0.25 mmol, 0.065 g | ClCCCN1C(COC2=C1C(=C(C=C2)F)F)=O | C11H10ClF2NO2
reactant | K2CO3 | 0.48 mmol, 0.06 g | C(=O)([O-])[O-].[K+].[K+]
product | 4-[3-(4-Cyclopropylmethoxypiperidin-1-yl)propyl]-5,6-difluoro-4H-benzo[1,4]oxazin-3-one | 0.049 g, 54% | C1(CC1)COC1CCN(CC1)CCCN1C(COC2=C1C(=C(C=C2)F)F)=O | C20H26F2N2O3
